US07923561B2
(R)-Indan-1-yl-[5-(pyridin-3-ylmethoxy)-quinolin-2-yl]-amine
The title compound, MS: m/e=367.5 (M+H+), was prepared in accordance with the general method of example 2 from 5-hydroxy-2-chloroquinoline, 3-bromomethyl-pyridine and (R)-1-aminoindane.

reactant | 5-hydroxy-2-chloroquinoline | OC1=C2C=CC(=NC2=CC=C1)Cl | C9H6ClNO
reactant | 3-bromomethyl-pyridine | BrCC=1C=NC=CC1 | C6H6BrN
reactant | (R)-1-aminoindane | N[C@@H]1CCC2=CC=CC=C12 | C9H11N
product | (R)-Indan-1-yl-[5-(pyridin-3-ylmethoxy)-quinolin-2-yl]-amine | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=CC(=C2C=C1)OCC=1C=NC=CC1 | C24H21N3O
